US07608563B2
In a mixed solvent of 1,4-dioxane (3 mL) and dimethylsulfoxide (3 mL) was dissolved 167.5 mg (1.21 mmol) of commercially available 2-methoxy-5-methylphenol, and 142.8 mg (1.27 mmol) of potassium tert-butoxide was added to the solution, then 202.9 mg (1.23 mmol) of 3,6-dichloropyridazine 1-oxide was added to the mixture and the resulting mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was successively washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was distilled off and the obtained residue was purified by preparative thin-layer chromatography (available from MERCK CO., 1.05744, 3 plates were used, developed by ethyl acetate:hexane=2:1) to obtain 226.5 mg (0.849 mmol, Yield: 70.2%) of 6-chloro-3-(2-methoxy-5-methylphenoxy)pyridazine 1-oxide.

reactant | potassium tert-butoxide | 1.27 mmol, 142.8 mg | CC(C)([O-])C.[K+]
reactant | 3,6-dichloropyridazine 1-oxide | 1.23 mmol, 202.9 mg | ClC=1N=[N+](C(=CC1)Cl)[O-] | C4H2Cl2N2O
reactant | water | O | H2O
reactant | 2-methoxy-5-methylphenol | COC1=C(C=C(C=C1)C)O | C8H10O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 6-chloro-3-(2-methoxy-5-methylphenoxy)pyridazine 1-oxide | 0.849 mmol, 226.5 mg, Yield: 70.2% | ClC1=CC=C(N=[N+]1[O-])OC1=C(C=CC(=C1)C)OC | C12H11ClN2O3
